US06861192B2
Preparation of N,N,N′,N′-tetrakis(2-hydroxyethyl)succinamide
A mixture of 43.55 g (0.25 mol) of diethyl succinate and 157.71 g (1.50 mol) of diethanolamine was heated under nitrogen in a 140° C. bath for 1.75 hr while collecting the ethanol distillate. The excess diethanolamine was then distilled off at reduced pressure (1.2 mm) while heating in a 190° C. bath. The oily residue was cooled, stirred with acetone, and allowed to stand. The oil crystallized to a white solid, which was collected and dried. The yield of product was 48.27 g (66.0% of theory); mp=89-91° C.

reactant | diethyl succinate | 0.25 mol, 43.55 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | diethanolamine | 1.50 mol, 157.71 g | N(CCO)CCO | C4H11NO2
product | N,N,N′,N′-tetrakis(2-hydroxyethyl)succinamide | OCCN(C(CCC(=O)N(CCO)CCO)=O)CCO | C12H24N2O6
